US09079916B2
To tert-butyl 4-(2-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-5-methylpyrimidin-4-yl)benzoate (68 mg, 0.13 mmol) DCM (1.42 mL) and TFA (1.00 mL) were added and stirred at room temperature for one hour. The DCM and TFA were evaporated under reduced pressure. The crude product was dissolved in DMSO (1 mL), filtered and purified by reverse phase preparative HPLC to yield 4-(2-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-5-methylpyrimidin-4-yl)benzoic acid. ESI-MS m/z calc. 453.1. Found 454.3 (M+1)+. Retention time 1.62 minutes.

reactant | tert-butyl 4-(2-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-5-methylpyrimidin-4-yl)benzoate | 0.13 mmol, 1.42 mL, 68 mg | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC2=NC=C(C(=N2)C2=CC=C(C(=O)OC(C)(C)C)C=C2)C)F | C27H25F2N3O5
reactant | TFA | 1.00 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-(2-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-5-methylpyrimidin-4-yl)benzoic acid | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC2=NC=C(C(=N2)C2=CC=C(C(=O)O)C=C2)C)F | C23H17F2N3O5
